US03951981
Preparation of 6-Chloro-10-(4-methyl-1-piperazinyl)-4H-thieno[3,4-b] [1,5] benzodiazepine
A solution of 0.7 g. of 6-chloro-10-(methylthio)-4H-thieno[3,4-b] [1,5]benzodiazepine in 3.5 ml. of N-methylpiperazine is treated with 1-2 drops of glacial acetic acid and heated undr reflux for 4 days. The solution is concentrated to dryness and the residue is warmed with dilute acetic acid. The acidic solution is filtered, cooled, and made alkaline with concentrated ammonium hydroxide. The precipitate is collected, washed with water and recrystallized from acetone-petroleum ether (30°-60°C.) to give yellow crystals, m.p. 148°-149°C. (dec.).

reactant | 6-chloro-10-(methylthio)-4H-thieno[3,4-b] [1,5]benzodiazepine | ClC1=CC2=C(N=C(C=3C(N2)=CSC3)SC)C=C1 | C12H9ClN2S2
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
catalyst | acetic acid | 1-2 drops | C(C)(=O)O | C2H4O2
product | 6-Chloro-10-(4-methyl-1-piperazinyl)-4H-thieno[3,4-b] [1,5] benzodiazepine | ClC1=CC2=C(N=C(C=3C(N2)=CSC3)N3CCN(CC3)C)C=C1 | C16H17ClN4S
